US07544697B2
Bromine (19.5 g, 122 mmol) was added in a single portion to a solution of tert-butyl 2-[3-cyano-1-(2-methoxyethyl)-1H-pyrazol-5-yl]-1,1-dimethylethylcarbamate (28.07 g, 87.1 mmol) and potassium acetate (12.8 g, 131 mmol) in acetic acid (174.2 mL). After 16 hours saturated aqueous sodium bisulfite was added until the reaction mixture was colorless. The acetic acid was removed under reduced pressure at about 30° C. The residue was made basic with 2 M sodium carbonate and then extracted with tert-butyl methyl ether (×3). The extracts were combined, dried over magnesium sulfate, and concentrated under reduced pressure. Analysis by HPLC indicated that the BOC group had been partially removed. The material was dissolved in dichloromethane (50 mL), combined with di-tert-butyl dicarbonate, and stirred for 9 hours. The reaction mixture was concentrated under reduced pressure and the residue was purified by IFC (65+M cartridge eluting with a gradient of 40 to 50% tert-butyl methyl ether in hexanes) to provide 32.1 g of tert-butyl 2-[4-bromo-3-cyano-1-(2-methoxyethyl)-1H-pyrazol-5-yl]-1,1-dimethylethylcarbamate as a colorless, viscous resin.

reactant | Bromine | 122 mmol, 19.5 g | BrBr | Br2
reactant | tert-butyl 2-[3-cyano-1-(2-methoxyethyl)-1H-pyrazol-5-yl]-1,1-dimethylethylcarbamate | 87.1 mmol, 28.07 g | C(#N)C1=NN(C(=C1)CC(C)(C)NC(OC(C)(C)C)=O)CCOC | C16H26N4O3
reactant | potassium acetate | 131 mmol, 12.8 g | C(C)(=O)[O-].[K+]
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
solvent | acetic acid | 174.2 mL | C(C)(=O)O | C2H4O2
product | tert-butyl 2-[4-bromo-3-cyano-1-(2-methoxyethyl)-1H-pyrazol-5-yl]-1,1-dimethylethylcarbamate | 32.1 g | BrC=1C(=NN(C1CC(C)(C)NC(OC(C)(C)C)=O)CCOC)C#N | C16H25BrN4O3
